data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][CH:21]1CCC[C:22]1=[N+:23]2CCC3=C(C2CC(=O)OC(C)C)C=CC(=C3)OC.C(=O)(C(F)(F)F)[O-:10].O>>[H:20][O:10]C(=O)C(F)(F)F.CC(C)OC(=O)CC1C2=C(CC[N:23]1[C:22]3=[CH:21]CCC3)C=C(C=C2)OC.O 10=20;22,23=23;20,21=21,22
C[O-].C[O:21][C:20](C1=CC=CC=C1)(C2=CC=CC=C2)[O-:10].[Mg+]Br>>C[O-].C[O-:21].C1=CC=C(C=C1)[C:20](=[O:10])C2=CC=CC=C2.[Mg+]Br 10=20;20,21=21
CC[Al:20](Cl)Cl.C[Si](C)(C)CC(=C)C1CCCC(=[O:10])C1.[Cl-]>>CC[Al-:20]([O+:10]=C1CCCC(C1)C(=C)C[Si](C)(C)C)(Cl)Cl.[Cl-] 10=20,
CC1CC(C2C(=C)C1(CCC2(C)C=C)C)[O:10][Zn-](Cl)Cl.C[Si:20](C)(C)Cl>>CC1CC(C2C(=C)C1(CCC2(C)C=C)C)[O+:10]([Si-:20](C)(C)(C)Cl)[Zn-](Cl)Cl 10=20,
CC[O-:10].C1=C[C:21](=[C:20](C=C1)Cl)[N+](=O)[O-]>>CC[O:10][C:20]1(C=CC=C[C-:21]1[N+](=O)[O-])Cl 10=20;20,21=21
C[As+](C)(C)[CH-:10][CH2:20][OH+:21][Na]>>C[As+](C)(C)[CH:10]=[CH2:20].[OH:21][Na] 10=20;20,21=21
CC12CC(=C)CC([C:20]1=[O:21])CC2=O.C[O:10][Na]>>CC12CC(=C)CC([C:20]1([O-:21])[O+:10](C)[Na])CC2=O 10=20;20,21=21
[H:20][O+:21]=C(C)C(C)(C)C.[OH2:10].OS(=O)(=O)[O-]>>[H:20][OH2+:10].CC(=[O:21])C(C)(C)C.OS(=O)(=O)[O-] 10=20;20,21=21
CCOC(=O)C(=O)[CH:10]=[C:11](C(=C([C:20](=[O:21])OCC)O)C)[O-:12]>>CCOC(=O)C(=O)[CH:10]1[C:11](=[O:12])C(=C([C:20]1([O-:21])OCC)O)C 10,11=10,20;20,21=21;12=11
[B:20]1(OC(C(O1)(C)C)(C)C)CC(=C)C(=O)OC.C=CC1=C(SC=C1)C=[O:10]>>[B-:20]1(OC(C(O1)(C)C)(C)C)(CC(=C)C(=O)OC)[O+:10]=CC2=C(C=CS2)C=C 10=20,
[H:20][Cl:21].C[C:11]1=[CH:10]CCCC1(C)C>>[H:20][CH:10]1CCCC([C+:11]1C)(C)C.[Cl-:21] 10,11=10,20;20,21=21
[H:20][CH:21](C)[C:22](=[O:23])N(C)C.[OH-:10]>>[H:20][OH:10].C[CH:21]=[C:22](N(C)C)[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][Cl:21].CC1(CCCC[CH:10]=[C:11]1C2=CC=CC=C2)C3=CC=CC=C3>>[H:20][CH:10]1CCCCC([C+:11]1C2=CC=CC=C2)(C)C3=CC=CC=C3.[Cl-:21] 10,11=10,20;20,21=21
CO[C:20](N)([OH:21])[O-:10]>>CO[C:20](=[O:10])N.[OH-:21] 10=20;20,21=21
[H:20][OH+:21]C1(CC2CC(CC2C1)OC)OCC(C)(C)CO.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C>>[H:20][OH2+:10].CC(C)(CO)COC1(CC2CC(CC2C1)OC)[OH:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C 10=20;20,21=21
CC[NH2+:21][C:20](C)(N(CC)CC)[OH:10]>>CC[NH2:21].CCN(CC)[C:20](=[OH+:10])C 10=20;20,21=21
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)C(C)C)C(C)C.[F-:10]>>CC(C)[C:21]1=[CH:22][CH:23]=[C:24](C=C1)C(C)C.[H:20][F:10] 10=20;20,21=21,22;22,23=23,24
CCCOC(=O)C[N-][N+:21]#[N:20].C1=CC=C(C=C1)[P:10](C2=CC=CC=C2)C3=CC=CC=C3.[OH3+]>>CCCOC(=O)C[N-][N:21]=[N:20][P+:10](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.[OH3+] 10=20;20,21=21
CC(=O)OC1=C2C3=C(CC4C5(C3(CC[N+]4(C)[C:20](=[N-:10])[Br:21])C(O2)C(=O)CC5)OC(=O)C)C=C1>>CC(=O)OC1=C2C3=C(CC4C5(C3(CC[N+]4(C)[C:20]#[N:10])C(O2)C(=O)CC5)OC(=O)C)C=C1.[Br-:21] 10=20;20,21=21
[H:20][CH2:21][P+](C)(C)C.[Li:11][CH3:10]>>[H:20][CH3:10].[Li+:11].C[P+](C)(C)[CH2-:21] 10,11=10,20;20,21=21
CCC(C)(C)[OH:10].C[C:20](=[O:21])[N+]1=CC=C(C=C1)N(C)C.CC(=O)[O-]>>CCC(C)(C)[OH+:10][C:20](C)([N+]1=CC=C(C=C1)N(C)C)[O-:21].CC(=O)[O-] 10=20;20,21=21
CCO[S:11](C)(C)[O:10][C:20](=[NH+:21]C)NC>>CCO[S+:11](C)C.CN[C:20](=[O:10])[NH:21]C 10,11=10,20;20,21=21
CC[Al-](OC12CCCC(C1)[C+](C2)C[Si:20](C)(C)C)(Cl)Cl.[Cl-:10]>>CC[Al-](OC12CCCC(C1)[C+](C2)C[Si-:20](C)(C)(C)[Cl:10])(Cl)Cl 10=20,
C1=CC2=C(C=C1)[C:13](=[CH:12][CH:11]=[CH:10]2)Br.[Br:20][Br:21]>>C1=CC2=C(C=C1)[C+:13]([CH:12]=[CH:11][CH:10]2[Br:20])Br.[Br-:21] 10,11=10,20;20,21=21;12,13=11,12
CCC(=O)N[C:13]1=[CH:12][CH:11]=[CH:10]C=C1.C[C+:20]=O>>CCC(=O)N[C+:13]1C=C[CH:10]([CH:11]=[CH:12]1)[C:20](=O)C 10,11=10,20;12,13=11,12
CC[CH:10](CC=O)[OH2+:11]>>CC[CH+:10]CC=O.[OH2:11] 10,11=11
C[C:10](=[NH2+:11])C>>C[C+:10](C)[NH2:11] 10,11=11
[B:20](Br)(Br)Br.C[O:10]C1=C2C3=C(CC4C5(C3(CCN4CC6CC6)C(O2)C(=O)CC5)O)C=C1>>[B-:20]([O+:10](C)C1=C2C3=C(CC4C5(C3(CCN4CC6CC6)C(O2)C(=O)CC5)O)C=C1)(Br)(Br)Br 10=20,
[H:20][N+:21]1(CCN(CC1)C2=CC3=C(C=C2Br)C(=O)C4=C(C3(C)C)NC5=CC=CC=C54)C6(COC6)O.CC(=O)[O-:10].[BH3-]C#N.CO>>[H:20][O:10]C(=O)C.CC1(C2=C(C=C(C(=C2)N3CC[N:21](CC3)C4(COC4)O)Br)C(=O)C5=C1NC6=CC=CC=C65)C.[BH3-]C#N.CO 10=20;20,21=21
[H:20][OH2+:21].CCOC(=O)C[N-:10][P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3>>[H:20][N:10](CC(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.[OH2:21] 10=20;20,21=21
C[S:10](=[OH+:11])O>>C[S+:10](O)[OH:11] 10,11=11
[H:20][Cl:21].C1=CC=C(C(=C1)C(=O)O)N=N[OH:10]>>[H:20][OH+:10]N=NC1=CC=CC=C1C(=O)O.[Cl-:21] 10=20;20,21=21
C[CH-:10]C(=O)CC1(C(CC[C:20]1=[O:21])C)C(=O)OC.[HH].[Na+]>>CC1CC[C:20]2(C1(CC(=O)[CH:10]2C)C(=O)OC)[O-:21].[HH].[Na+] 10=20;20,21=21
[H:20][N+:21](C)(C1=CC=CC=C1)C(C)O.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CC([N:21](C)C1=CC=CC=C1)O 10=20;20,21=21
COC1=C2C3=C(CC4C5(C3(CCN4C6=CC=CC=C6)C(O2)[C:20](=[O:21])CC5)O)C=C1.N[NH2:10].C(COCCO)O.O>>COC1=C2C3=C(CC4C5(C3(CCN4C6=CC=CC=C6)C(O2)[C:20](CC5)([NH2+:10]N)[O-:21])O)C=C1.C(COCCO)O.O 10=20;20,21=21
CC1CCC[C:22](=[O+:23][Ti-](Cl)(Cl)(Cl)Cl)[CH:21]=[CH:20]1.CC(=[C:11]=[CH2:10])[Si](C)(C)C>>CC1CCC[C:22](=[CH:21][CH:20]1[CH2:10][C+:11]=C(C)[Si](C)(C)C)[O:23][Ti-](Cl)(Cl)(Cl)Cl 10,11=10,20;20,21=21,22;22,23=23
[Li:11][CH3:10].CC1(CCCC(=C1)O[Si:20](C)(C)C)C>>CC1(CCCC(=C1)O[Si-:20](C)(C)(C)[CH3:10])C.[Li+:11] 10,11=10,20
